US04999378
(2) 4-[3-[N-(3,4-Methylenedioxyphenyl)amino]propoxy]benzoic acid
Methyl 4-[3-[N-(3,4-methylenedioxyphenyl)amino]propoxy]benzoate (1.5 g) was suspended in methanol (20 ml), and thereto a solution of sodium hydroxide (0.55 g) in water (5 ml) was added, then, the mixture was heated with stirring at 60° C. for 13 hours. After the reaction solution was concentrated under reduced pressure, the residue was washed with ether several times, and further thereto were added water and a neutralization amount of conc. hydrochloric acid. The resulting crystal was collected by filtration to give the desired product (0.99 g). mp. 164°-167° C. (decomposed).

reactant | Methyl 4-[3-[N-(3,4-methylenedioxyphenyl)amino]propoxy]benzoate | 1.5 g | C1OC=2C=C(C=CC2O1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C18H19NO5
reactant | sodium hydroxide | 0.55 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-[3-[N-(3,4-Methylenedioxyphenyl)amino]propoxy]benzoic acid | 0.99 g | C1OC=2C=C(C=CC2O1)NCCCOC1=CC=C(C(=O)O)C=C1 | C17H17NO5
